US08466143B2
Preparation of 6-(3,4-difluoro-benzoyl)-5,6-dihydro-4H-thieno[2,3-D]azepine-8-carboxylic acid ethyl ester
The title compound was prepared in a manner similar to that described in Example 2 by using 5,6-dihydro-4H-thieno[2,3-d]azepine-8-carboxylic acid ethyl ester and 3,4-difluoro-benzoyl chloride. 1H-NMR(CDCl3): δ 8.01 (1 H, s), 7.47 (1 H, m), 7.36 (1H, m), 7.27 (2H, m), 6.85 (1H, d), 4.23 (2H, q), 4.13 (2H, m), 3.15 (2H, t), 1.23 (3H, t). MS (ES): 364 (MH+).

reactant | 5,6-dihydro-4H-thieno[2,3-d]azepine-8-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNCCC2=C1SC=C2 | C11H13NO2S
reactant | 3,4-difluoro-benzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
product | 6-(3,4-difluoro-benzoyl)-5,6-dihydro-4H-thieno[2,3-D]azepine-8-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(CCC2=C1SC=C2)C(C2=CC(=C(C=C2)F)F)=O | C18H15F2NO3S
